US07008945B1
3-(5-benzamido-2-chlorophenyl)-7-methoxy-2-methyl-3,4-dihydroquinazolin-4-one
Using an analogous procedure to that described in Example 1, triethyl orthoacetate was reacted with N-(5-benzamido-2-chlorophenyl)-2-amino-4-methoxybenzamide. The material so obtained was purified by column chromatography on an isolute SCX ion exchange column using initially methanol and then a 99:1 mixture of methanol and a saturated aqueous ammonium hydroxide solution as eluent. There was thus obtained the title compound in 27% yield; NMR Spectrum: (DMSOd6) 2.15 (s, 3H), 3.91 (s, 3H), 7.09–7.14 (m, 2H), 7.46–7.6 (m, 3H), 7.71 (d, 1H), 7.87–8.06 (m, 5H), 10.57 (s, 1H); Mass Spectrum: M+H+420 and 422.

reactant | triethyl orthoacetate | C(C)(OCC)(OCC)OCC | C8H18O3
reactant | N-(5-benzamido-2-chlorophenyl)-2-amino-4-methoxybenzamide | C(C1=CC=CC=C1)(=O)NC=1C=CC(=C(C1)NC(C1=C(C=C(C=C1)OC)N)=O)Cl | C21H18ClN3O3
product | 3-(5-benzamido-2-chlorophenyl)-7-methoxy-2-methyl-3,4-dihydroquinazolin-4-one | 27% yield | C(C1=CC=CC=C1)(=O)NC=1C=CC(=C(C1)N1C(=NC2=CC(=CC=C2C1=O)OC)C)Cl | C23H18ClN3O3
